US09428509B2
(R)-(4-Amino-3-methoxyphenyl)(2-(hydroxymethyl)aziridin-1-yl)methanone
To a solution of (R)-(2-(hydroxymethyl)aziridin-1-yl)(3-methoxy-4-nitrophenyl)methanone (1 equiv) in MeOH (0.12 M) was added 10% palladium on charcoal (67 weight %). The reaction mixture was stirred at 50° C. under hydrogen atmosphere (50 psi) overnight and then filtered through celite. The filtrate was concentrated and the residue was purified by silica gel chromatography (0-10% DCM in MeOH) to afford the desired product (92% yield) as a white solid. MS (ESI) m/z 223.2 [M+H]+.

reactant | (R)-(2-(hydroxymethyl)aziridin-1-yl)(3-methoxy-4-nitrophenyl)methanone | 1 equiv | OCC1[N@@](C1)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C11H12N2O5
solvent | MeOH | 0.12 M | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | (R)-(4-Amino-3-methoxyphenyl)(2-(hydroxymethyl)aziridin-1-yl)methanone | 92% yield | NC1=C(C=C(C=C1)C(=O)[N@]1C(C1)CO)OC | C11H14N2O3
